US05859007
2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 200 mg (0.30 mmol) of 2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide in 5 mL of DMF is added 0.45 mL (0.45 mmol, 1.5 equiv) of a 1.0M solution of NaN(TMS)2. The resulting solution is stirred 5 min, then 76 mg (0.54 mmol, 1.8 equiv) of methyl iodide is added. The resulting solution is stirred at RT for 1 h then heated to 50° C. for 16 h. The solution is cooled to RT, poured into 40 mL of EtOAc and extracted with H2O (1×40 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the resulting material by silica gel flash chromatography with hexane/ethyl acetate 3/2 as eluent gave 127 mg of the title compound as an off-white solid, contaminated with starting material, which is inseparable, in a ratio of approximately 1/1: 1H NMR (300 MHz, CDCl3) δ7.86 (d, 1H, J=8.1), 7.33-6.88 (m, 21H), 5.58 (s, 2H), 5.43 (s, 2H), 5.05 (m, 1H), 5.00 (m, 1H), 4.50 (d, 1H), 4.25 (m, 3H), 3.85 (s, 3H), 3.58 (dd, 1H, J=5.1, 16.0), 1. 59 (s, 3H), 1.06 (2×d, 6H, J=6.6); Rf =0.15 in hexane/ethyl acetate 2/1.

reactant | 2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.30 mmol, 200 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C42H39N5O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 0.54 mmol, 76 mg, 1.8 equiv | CI | CH3I
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 127 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C43H41N5O4
